US08110581B2
Step 2. ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-3-carboxylate trihydrochloride
Hydrogen chloride in 1,4-dioxane (4.0 M, 2.0 mL) was added to a solution of 1-tert-butyl 3-ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-1,3-dicarboxylate (0.036 g, 0.000092 mol) in ethyl acetate (0.5 mL) and the mixture was stirred for 2 h. Then the solvent was removed in-vacuo to afford the product. LC-MS: 292.3 (M+H)+.

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-tert-butyl 3-ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-1,3-dicarboxylate | 0.000092 mol, 0.036 g | CC1=C(C=NC=C1)NCCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C21H33N3O4
solvent | 1,4-dioxane | 4.0 M, 2.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-3-carboxylate trihydrochloride | Cl.Cl.Cl.CC1=C(C=NC=C1)NCCC1(CNCCC1)C(=O)OCC | InChI=1S/C16H25N3O2.3ClH/c1-3-21-15(20)16(6-4-8-18-12-16)7-10-19-14-11-17-9-5-13(14)2;;;/h5,9,11,18-19H,3-4,6-8,10,12H2,1-2H3;3*1H
